US06392056B1
1,1-bis(4-methoxyphenyl)ethylene
An equivalent of methyl magnesium bromide/diethyl ether solution is reacted with 4,4′-dimethoxybenzophenone (24.2 g, 0.1 mol) dissolved in anhydrous diethyl ether over a 60 minute period at ambient temperature. The reaction mixture is poured onto ice and extracted with ether. The ether is removed by distillation and replaced with ethyl acetate (100 mL). The ethyl acetate solution is refluxed for one hour over anhydrous magnesium sulfate. Methylene chloride (300 mL) is added and the magnesium sulfate removed by filtration. The solvent is distilled leaving 16.9 g of the title compound as a white solid melting at 137° C. whose structure is consistent with 1nmr and mass spectrometry.

reactant | methyl magnesium bromide diethyl ether | C[Mg]Br.C(C)OCC
reactant | 4,4′-dimethoxybenzophenone | 0.1 mol, 24.2 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,1-bis(4-methoxyphenyl)ethylene | 16.9 g | COC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)OC | C16H16O2
